US06677464B2
Distilled furan (6.8 g, 100 mmol) and 2-bromoacrylic acid (1.0 g, 6.6 mmol) were charged in a similar reactor as in Example 7, and the mixture was cooled to an inner temperature of 2° C. To this mixed solution was added dropwise a solution (0.7 ml, 0.7 mmol) of a borane-tetrahydrofuran complex (BH3.THF) in 0.93 M tetrahydrofuran over 5 min., while maintaining the inner temperature at not more than 2° C. After the completion of the dropwise addition, the mixture was stirred at the same temperature for 10 hr. Water (10 ml) and chloroform (10 ml) were added to the reaction mixture and the organic layer and the aqueous layer were separated. The aqueous layer was extracted twice with chloroform (10 ml) and the extract was combined with the organic layer separated earlier. The mixture was dried over anhydrous sodium sulfate, concentrated and dried under reduced pressure for 2 hr. to give 2-bromo-7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid as a pale-yellow oily substance (1.3 g, main component:minor component=2:1, purity 77% (containing 23% of unreacted 2-bromoacrylic acid), yield 70% based on 2-bromoacrylic acid) being a mixture of an endo form and an exo form.

reactant | furan | 100 mmol, 6.8 g | O1C=CC=C1 | C4H4O
reactant | 2-bromoacrylic acid | 6.6 mmol, 1.0 g | BrC(C(=O)O)=C | C3H3BrO2
reactant | borane tetrahydrofuran | 0.7 mmol, 0.7 ml | B.O1CCCC1
reactant | Water | 10 ml | O | H2O
solvent | tetrahydrofuran | 0.93 M | O1CCCC1 | C4H8O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-bromo-7-oxabicyclo[2.2.1]hept-5-ene-2-carboxylic acid | yield 70% | BrC1(C2C=CC(C1)O2)C(=O)O | C7H7BrO3
